US05202318
A slurry of N-chlorosuccinimide (0.255 g; 1.90 mmol) and 2,3-dihydro-6-methylamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione (0.65 g; 1.80 mmol), prepared as in Example 5, in N,N-dimethylformamide (12 mL) was stirred approximately 72 hours. The solvent was removed and acetone (approximately 25 mL) was added to the residue. The acetone mixture was heated to boiling and then stirred for 1 hour at room temperature. The solid was collected from the mixture, stirred again in acetone, and recollected. Drying under vacuum gave 5-chloro-2,3-dihydro-6-methylamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione (0.65 g; 1.65 mmol), m.p. 298°-302° C.

reactant | N-chlorosuccinimide | 1.90 mmol, 0.255 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,3-dihydro-6-methylamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione | 1.80 mmol, 0.65 g | CNC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2CCN(CC2)C)=O | C19H21N3O2
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2,3-dihydro-6-methylamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione | 1.65 mmol, 0.65 g | ClC=1C(=C2C3=C(C(N(C(C3=CC=C2)=O)C2CCN(CC2)C)=O)C1)NC | C19H20ClN3O2
